US07718652B2
In an analogous manner to Example 11 step 5, 3-(3-bromopropyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.1 g, 0.23 mmol) was reacted to methylamine and then treated with HCl to provide 3-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine as a white solid:

reactant | 3-(3-bromopropyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCCN1S(N(C2=C(C1)C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H16BrFN2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine | FC1=C(C=CC=C1)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | C17H20FN3O2S
